### PR TITLE
feat+refactor: Russell Sigma + Russell Pi definitions

### PR DESCRIPTION
**Pull request by Jlh18**
In an effort to get russell style sigmas set up for the groupoid model:

In `GroupoidModel.Russell_PER_MS.NaturalModelSigma`
- Refactor def "UHomSeqPis" through the Tarski version of the definition "NaturalModelPi"
- Made the same definition for sigma types
- made `uvPolyTpEquiv` which is the universal property of `UvPoly`, except it uses the context extension explicitely, rather than `Limits.pullback` from the `HasPullback` instance
@Vtec234 I don't know how best to arrange the stuff in this file. Maybe you can decide where to put it?

- I set up `GroupoidModel.Groupoids.Sigma` in which we show that each universe in the model has sigma types. And likewise for Pi types
- @SpencerWoolfson I made a further specialisation of `uvPolyTpEquiv` called `baseUvPolyTpEquiv`. In particular this helps simplify going from the "operator on functors" version of the sigma formation rule to the "natural transformation between presheaves" version.

### CODE REVIEW

File: GroupoidModel/ForMathlib.lean [hunk 1]
```diff
@@ -666,4 +673,98 @@ instance (C : Type u) [Category.{v} C] :
   AsSmall.equiv.fullyFaithfulFunctor.reflectsIsomorphisms
 
 end equivalence
+
+section
+variable {Γ : Type u₂} [Category.{v₂} Γ] {A : Γ ⥤ Grpd.{v₁,u₁}}
+
+theorem Grpd.map_id_obj {x : Γ} {a : A.obj x} :
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:680]:
```suggestion
@[simp] theorem Grpd.map_id_obj {x : Γ} {a : A.obj x} :
```

File: GroupoidModel/ForMathlib.lean [hunk 2]
```diff
@@ -666,4 +673,98 @@ instance (C : Type u) [Category.{v} C] :
...
+
+theorem Grpd.map_comp_map
+    {x y z : Γ} {f : x ⟶ y} {g : y ⟶ z} {a b : A.obj x} {φ : a ⟶ b} :
+    (A.map (f ≫ g)).map φ
+    = eqToHom Grpd.map_comp_obj ≫ (A.map g).map ((A.map f).map φ)
+    ≫ eqToHom Grpd.map_comp_obj.symm := by
+  have : A.map (f ≫ g) = A.map f ≫ A.map g := by simp
+  exact Functor.congr_hom this φ
+
+theorem Cat.map_id_obj {A : Γ ⥤ Cat.{v₁,u₁}}
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:709]:
```suggestion
@[simp] theorem Cat.map_id_obj {A : Γ ⥤ Cat.{v₁,u₁}}
```

File: GroupoidModel/Groupoids/Pi.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+open CategoryTheory NaturalModelBase Opposite Grothendieck
+
+/-- The formation rule for Σ-types for the ambient natural model `base`
+  unfolded into operations between functors -/
+def pi {Γ : Grpd.{v,u}} (A : Γ ⥤ Grpd.{v₁,u₁})
+    (B : Groupoidal A ⥤ Grpd.{v₁,u₁})
+    : Γ ⥤ Grpd.{v₁,u₁} :=
+  sorry
+
+/-- The formation rule for Σ-types for the ambient natural model `base` -/
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Pi.lean:24]:
```suggestion
/-- The formation rule for Π-types for the ambient natural model `base` -/
```

File: GroupoidModel/Groupoids/Pi.lean [hunk 4]
```diff
@@ -0,0 +1,53 @@
...
+def basePiPi : base.Ptp.obj base.{u}.Ty ⟶ base.Ty where
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Pi.lean:25]:
```suggestion
def basePi.Pi : base.Ptp.obj base.{u}.Ty ⟶ base.Ty where
```

File: GroupoidModel/Groupoids/Pi.lean [hunk 5]
```diff
@@ -0,0 +1,53 @@
...
+  app Γ := fun pair =>
+    let ⟨A,B⟩ := baseUvPolyTpEquiv pair
+    yonedaEquiv (yonedaCatEquiv.symm (pi A B))
+  naturality := sorry
+
+def basePi : NaturalModelPi base where
+  Pi := basePiPi
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Pi.lean:32]:
```suggestion
  Pi := basePi.Pi
```

File: GroupoidModel/Groupoids/Sigma.lean [hunk 6]
```diff
@@ -0,0 +1,161 @@
...
+
+
+-- NOTE content for this doc starts here
+namespace GroupoidModel
+
+open CategoryTheory NaturalModelBase Opposite Grothendieck.Groupoidal
+
+namespace FunctorOperation
+
+set_option maxHeartbeats 0
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/Sigma.lean:22]:
```suggestion
-- TODO: Fix performance issue.
set_option maxHeartbeats 0 in
```

File: GroupoidModel/Russell_PER_MS/NaturalModelBase.lean [hunk 7]
```diff
@@ -9,8 +9,7 @@ open CategoryTheory Limits Opposite
 notation:max "y(" Γ ")" => yoneda.obj Γ
 notation:max "ym(" f ")" => yoneda.map f
 
-/-- A representable map with choice of representability witnesses. -/
--- FIXME: should just be called `RepresentableNatTrans`.
+/-- A representable map with choice of representability witnesses. -/ -- FIXME: should just be called `RepresentableNatTrans`.
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModelBase.lean:12]:
```suggestion
/-- A representable map with choice of representability witnesses. -/
-- FIXME: should just be called `RepresentableNatTrans`.
```

File: GroupoidModel/Russell_PER_MS/NaturalModelBase.lean [hunk 8]
```diff
@@ -191,6 +190,14 @@ theorem inst_wk {Γ : Ctx} {X : Psh Ctx}
 
 variable [SmallCategory Ctx] (M : NaturalModelBase Ctx)
 
+instance : HasFiniteWidePullbacks (Psh Ctx) := hasFiniteWidePullbacks_of_hasFiniteLimits _
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModelBase.lean:193]:
```suggestion
-- TODO(WN): move to ForMathlib or somewhere
instance : HasFiniteWidePullbacks (Psh Ctx) := hasFiniteWidePullbacks_of_hasFiniteLimits _
```

File: GroupoidModel/Russell_PER_MS/NaturalModelSigma.lean [hunk 9]
```diff
@@ -0,0 +1,73 @@
+import GroupoidModel.Russell_PER_MS.NaturalModelBase
+
+universe v u
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModelSigma.lean:3]:
```suggestion
-- TODO(WN): reorg this module
universe v u
```

File: GroupoidModel/Russell_PER_MS/NaturalModelSigma.lean [hunk 10]
```diff
@@ -0,0 +1,73 @@
...
+ ‖      ↓ sec                   V
+ ‖   M.ext A ⋯ -------------> M.Tm
+ ‖      |                        |
+ ‖      |                        |
+ ‖   forget                    M.tp
+ ‖      |                        |
+ ‖      V                        V
+  ===== Γ ---- α ≫ M.tp -----> M.Ty
+-/
+def sec {Γ : Ctx} (α : y(Γ) ⟶ M.Tm) :
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/NaturalModelSigma.lean:59]:
```suggestion
-- TODO(WN): move to `NaturalModel`
def sec {Γ : Ctx} (α : y(Γ) ⟶ M.Tm) :
```

File: GroupoidModel/Russell_PER_MS/UHom.lean [hunk 11]
```diff
@@ -213,12 +215,11 @@ rather than using `Π (ULift A) (ULift B)`.
...
     extends UHomSeq Ctx where
-  Pis' (i : Nat) (ilen : i < length + 1) :
-    toUHomSeq[i].Ptp.obj toUHomSeq[i].Ty ⟶ toUHomSeq[i].Ty
-  lams' (i : Nat) (ilen : i < length + 1) :
-    toUHomSeq[i].Ptp.obj toUHomSeq[i].Tm  ⟶ toUHomSeq[i].Tm
-  Pi_pbs' (i : Nat) (ilen : i < length + 1) :
-    IsPullback (lams' i ilen) (toUHomSeq[i].Ptp.map toUHomSeq[i].tp) toUHomSeq[i].tp (Pis' i ilen)
+  Pis' (i : Nat) (ilen : i < length + 1) : NaturalModelPi toUHomSeq[i]
+
+structure UHomSeqSigmas (Ctx : Type u) [SmallCategory.{u} Ctx] [ChosenFiniteProducts Ctx]
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/UHom.lean:220]:
```suggestion
-- TODO(WN): deduplicate
structure UHomSeqSigmas (Ctx : Type u) [SmallCategory.{u} Ctx] [ChosenFiniteProducts Ctx]
```

**Review by Vtec234 — APPROVED** [review]
